US04243666
1-Benzyl-4-hydroxypiperidine (10 g) in dry DMF (50 ml) was added dropwise to a stirred suspension of sodium hydride (5 g, 50% dispersion in mineral oil) in dry DMF (50 ml) at 20° under an atmosphere of nitrogen. The suspension was stirred at 20° for 4 hours, then 2-chloroacetic acid (4.95 g) in DMF (50 ml) was added slowly in two equal portions with a 2 hour interval between each. The resulting thick slurry was stirred at 20° for 24 hours. Isopropanol (75 ml) was added and the slurry was acidified to pH 6 with 2 N hydrochloric acid then concentrated in vacuo. The aqueous residue was adjusted to pH 10 with sodium hydroxide solution and extracted with chloroform (3×100 ml). The aqueous layer was separated, acidified to pH 3 with 2 N hydrochloric acid and extracted with chloroform (3×100 ml). The organic extracts were again discarded and the aqueous phase was concentrated to half volume, filtered and the filtrate evaporated in vacuo to give 2-(1-benzylpiperidin-4-oxy)acetic acid, hydrochloride (3 g), characterised by n.m.r.

reactant | 1-Benzyl-4-hydroxypiperidine | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | sodium hydride | 5 g | [H-].[Na+]
reactant | 2-chloroacetic acid | 4.95 g | ClCC(=O)O | C2H3ClO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | Isopropanol | 75 ml | C(C)(C)O | C3H8O
product | 2-(1-benzylpiperidin-4-oxy)acetic acid, hydrochloride | 3 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)OCC(=O)O | InChI=1S/C14H19NO3.ClH/c16-14(17)11-18-13-6-8-15(9-7-13)10-12-4-2-1-3-5-12;/h1-5,13H,6-11H2,(H,16,17);1H
